US04714774
A mixture of 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-fluorobenzoic acid (700 mg), dichloromethane (25 ml), triethylamine (2ml), acetic anhydride (2ml) and 4-dimethylaminopyridine (catalytic amount) was stirred at ice-cooling to room temperature for 6.5 hours. To the reaction mixture was added methanol (2ml), and the mixture was stirred for 30 minutes. After concentration, water was added to the residue. Solid materials were recovered by filtration and subjected to recrystallization from aqueous methanol to give crystals of 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-fluorobenzoic acid (723 mg). m.p. 144°-145° C.

reactant | 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-fluorobenzoic acid | 700 mg | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)F)C=C1)CCC)O | C21H23FO6
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
reactant | triethylamine | 2ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 2ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | 2ml | CO | CH4O
product | 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-fluorobenzoic acid | 723 mg | C(C)(=O)OC=1C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)F)C=CC1C(C)=O)CCC | C23H25FO7
